US08017611B2
TFA (10 ml) was added to 3-[4-[(2,4-dimethoxyphenyl)methoxy]-1,3-benzoxazol-2-yl]pyridin-2-amine (1.4 g). The resulting solution was stirred at 25° C. for 2 hours. The TFA was evaporated under reduced pressure. Toluene was added and the mixture was evaporated. The solid was triturated with water. The pH was adjusted to 7 with a 30% solution of ammonia. The solid was filtered and washed with water, diethyl ether and dried under reduced pressure to afford 2-(2-amino-3-pyridyl)-1,3-benzoxazol-4-ol (617 mg) as a solid. NMR Spectrum: (DMSOd6): 6.74-6.83 (m, 2H), 7.18 (d, 1H), 7.23 (dd, 1H), 7.84 (bs, 2H), 8.20 (d, 1H), 8.26 (d, 1H), 10.43 (s, 1H); Mass spectrum: M+H+ 228

reactant | 3-[4-[(2,4-dimethoxyphenyl)methoxy]-1,3-benzoxazol-2-yl]pyridin-2-amine | 1.4 g | COC1=C(C=CC(=C1)OC)COC1=CC=CC2=C1N=C(O2)C=2C(=NC=CC2)N | C21H19N3O4
solvent | TFA | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(2-amino-3-pyridyl)-1,3-benzoxazol-4-ol | 617 mg | NC1=NC=CC=C1C=1OC=2C(N1)=C(C=CC2)O | C12H9N3O2
